US05563169
a) 2-Allyloxy-6-ethyl-1-nitrobenzene
A mixture consisted of 3.15 g (18.2 mmol) of 2-ethyl-6-hydroxy-1-nitrobenzene, 4.44 g (36.7 mmol) of allyl bromide, 2.70 g (19.5 mmol) of potassium carbonate, 262 mg (1.75 mmol) of sodium iodide and 30 ml of acetone was heated under refluxing for 2 hours. After cooling, the reaction mixture was diluted with ether and the diluted mixture was filtered to remove inorganic substances. The filtrate was concentrated and the concentrate was purified by column chromatography through 150 g of silica gel using a 1:9 mixture of ether and hexane as an eluent to give 3.68 g (98%) of the title compound as an oil.

reactant | 2-ethyl-6-hydroxy-1-nitrobenzene | 18.2 mmol, 3.15 g | C(C)C1=C(C(=CC=C1)O)[N+](=O)[O-] | C8H9NO3
reactant | allyl bromide | 36.7 mmol, 4.44 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 19.5 mmol, 2.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
catalyst | sodium iodide | 1.75 mmol, 262 mg | [I-].[Na+]
product | 2-Allyloxy-6-ethyl-1-nitrobenzene | 3.68 g, 98% | C(C=C)OC1=C(C(=CC=C1)CC)[N+](=O)[O-] | C11H13NO3
